US09260441B2
Step B: N-(Azetidin-3-yl)-4-methyl-pyridin-2-amine
tert-Butyl 3-[(4-methyl-2-pyridyl)amino]azetidine-1-carboxylate (120 mg, 0.456 mmol) was dissolved in DCM (10 ml) under nitrogen. Trifluoroacetic acid (0.843 ml, 11.4 mmol) was added and the mixture was stirred at room temperature overnight. The mixture was concentrated under reduced pressure, the residue was dissolved in methanol and passed through a SCX column. The product was eluted by 2M ammonia in methanol, the solution was evaporated to dryness and the residue was used directly in the next step. MS (ESI) m/z=164.1 [M+1]+.

reactant | tert-Butyl 3-[(4-methyl-2-pyridyl)amino]azetidine-1-carboxylate | 0.456 mmol, 120 mg | CC1=CC(=NC=C1)NC1CN(C1)C(=O)OC(C)(C)C | C14H21N3O2
reactant | Trifluoroacetic acid | 11.4 mmol, 0.843 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(Azetidin-3-yl)-4-methyl-pyridin-2-amine | N1CC(C1)NC1=NC=CC(=C1)C | C9H13N3
